US04086350
To a solution of 3.28 g. (0.0256 mol) of p-fluorothiophenol and 6.8 g. (0.0256 mol) of 2-iodo-4-fluorobenzoic acid in 40 ml. of pyridine is added 3.54 g. (0.0256 mol) of potassium carbonate at room temperature with stirring. Additional pyridine is added to dissolve the precipitate and then 1.54 g. of cuprous chloride is added. The mixture is refluxed overnight, cooled, poured into ice-water, stirred and filtered. The aqueous solution is acidified, filtered and the solid dissolved in 5% sodium bicarbonate solution, then extracted with ether. The aqueous solution is acidified, extracted with ether, and the dried extract is concentrated to give 4-fluoro-2-(4-fluorophenylthio)benzoic acid, m.p. 209°-218° C. The latter (3.0 g., 0.0113 mol) is cyclized by heating for one hour with 45 g. of concentrated sulfuric acid to obtain 2,6-difluorothioxanthone, m.p. 205°-210° C.

reactant | p-fluorothiophenol | 0.0256 mol | FC1=CC=C(C=C1)S | C6H5FS
reactant | 2-iodo-4-fluorobenzoic acid | 0.0256 mol | IC1=C(C(=O)O)C=CC(=C1)F | C7H4FIO2
reactant | potassium carbonate | 0.0256 mol | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-fluoro-2-(4-fluorophenylthio)benzoic acid | FC1=CC(=C(C(=O)O)C=C1)SC1=CC=C(C=C1)F | C13H8F2O2S
